US08048902B2
Step 4: (4R,5S)-3-[2-(4-Bromo-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one
(4R,5S)-(+)-4-Methyl-5-phenyl-2-oxazolidinone (0.348 g, 1.96 mmol) was dissolved in tetrahydrofuran (20 mL) and cooled to −78° C. n-Butyllithium (1.6M in hexanes; 1.64 mL, 2.62 mmol) was added, and the reaction was stirred for 1 hour at −78° C. 2-(4-Bromo-phenyl)-propionyl chloride (0.540 g, 2.18 mmol) in tetrahydrofuran (10 mL) was added, and the reaction was stirred for 30 minutes. The mixture was concentrated, and the residue was partitioned between EtOAc and water. The organic layer was separated, dried, and concentrated, and the crude material was purified by silica gel chromatography (0-25% EtOAc in hexanes) to give two diastereomers as separated products. Diastereomer A was the first product to come off the column, while Diastereomer B was the second product to come off the column.

reactant | (4R,5S)-(+)-4-Methyl-5-phenyl-2-oxazolidinone | 1.96 mmol, 0.348 g | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | n-Butyllithium | 2.62 mmol, 1.6M, 1.64 mL | C(CCC)[Li]
reactant | 2-(4-Bromo-phenyl)-propionyl chloride | 2.18 mmol, 0.540 g | BrC1=CC=C(C=C1)C(C(=O)Cl)C | C9H8BrClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (4R,5S)-3-[2-(4-Bromo-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=CC=C(C=C1)C(C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C | C19H18BrNO3
